US06906067B2
3-Hydroxy-5-methyl 3H-isobenzofuran-1-one
N,N-diethyl-2-formyl-4-methyl-benzamide (7.98 g, 36.39 mmol) was taken up in 100 mL of 6N HCl and heated to reflux for 48 h. The reaction was then cooled to room temp and diluted with 50 mL of water. The aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (3:1 hexane/ethyl acetate) Yield 4.66 g. 1H NMR (CDCl3, 300 MHz): δ 2.47 (s, 3H), 6.05 (bs, 1H), 7.12 (s, 1H), 7.33 (d, J=9, 1H), 7.95 (d, J=9, 1H).

reactant | N,N-diethyl-2-formyl-4-methyl-benzamide | 36.39 mmol, 7.98 g | C(C)N(C(C1=C(C=C(C=C1)C)C=O)=O)CC | C13H17NO2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | HCl | 6N, 100 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 3-Hydroxy-5-methyl 3H-isobenzofuran-1-one | OC1OC(C2=CC=C(C=C12)C)=O | C9H8O3
